US05731352
N-[3-(7-METHOXY-1-NAPHTHYL)PROPYL]ACETAMIDE
After 0.005 mol (equivalent to 1.26 g) of 3-(7-methoxy-1-naphthyl)propylamine hydrochloride has been dissolved in 20 cm3 of water, 0.015 mol of potassium carbonate is added. The amine precipitates. Thereafter, 50 cm3 of chloroform are added and 0.010 mol of acetyl chloride is added dropwise. The medium is left stirring for 2 hours. It is acidified with 2N of hydrochloric acid and then stirred for 15 minutes. The aqueous phase is extracted with 3 times 50 cm3 of chloroform. The organic phases are washed with water, dried over calcium chloride and evaporated. Purification of the products is performed either by recrystallization or by column chromatography.

reactant | 3-(7-methoxy-1-naphthyl)propylamine hydrochloride | 0.005 mol, 1.26 g | Cl.COC1=CC=C2C=CC=C(C2=C1)CCCN
reactant | potassium carbonate | 0.015 mol | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 0.010 mol | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 20 cm3 | O | H2O
product | N-[3-(7-METHOXY-1-NAPHTHYL)PROPYL]ACETAMIDE | COC1=CC=C2C=CC=C(C2=C1)CCCNC(C)=O | C16H19NO2
